US05650410
According to the same manner as that described in Example 56, 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline was reacted with N-methylaniline to give 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-(N-methyl-N-phenylaminomethyl)quinazoline. This compound was recrystallized from ethanol. Colorless needles, mp. 141°-143° C.

reactant | 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline | ClCC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC | C19H19ClN2O4
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-(N-methyl-N-phenylaminomethyl)quinazoline | COC=1C=C(C=CC1OC)C1=NC(=NC2=CC(=C(C=C12)OC)OC)CN(C1=CC=CC=C1)C | C26H27N3O4
